US05045557
N-Benzylidene-N',N'-dimethylsulphamide (6.36 g) was stirred with p-toluenesulphonylmethyl isocyanide (9.75 g ) and potassium carbonate (8.28 g) in methanol and dimethoxyethane for 18 hours. The mixture was filtered and the filtrate evaporated and recrystallised from ethyl acetate/hexane to give crude 1-dimethylsulphamoyl-5-phenylimidazole.

reactant | N-Benzylidene-N',N'-dimethylsulphamide | 6.36 g | C(C1=CC=CC=C1)=NS(=O)(=O)N(C)C | C9H12N2O2S
reactant | p-toluenesulphonylmethyl isocyanide | 9.75 g | C1(=CC=C(C=C1)S(=O)(=O)C[N+]#[C-])C | C9H9NO2S
reactant | potassium carbonate | 8.28 g | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | CO | CH4O
solvent | dimethoxyethane | C(OC)COC | C4H10O2
product | 1-dimethylsulphamoyl-5-phenylimidazole | CN(S(=O)(=O)N1C=NC=C1C1=CC=CC=C1)C | C11H13N3O2S
